US07943768B2
tert-Butyl (2R)-2-{[4-(3,4-dichlorophenyl)piperazin-1-yl]carbonyl}piperazine-1-carboxylate
To a solution of di-tert-butyl (2R)-2-{[4-(3,4-dichlorophenyl)piperazin-1-yl]carbonyl}piperazine-1,4-dicarboxylate and 2,6-lutidine in dichloromethane at ice bath temperature under argon was added TBDMSOTf (total of 0.4 mL added following the reaction by tlc and lc-ms until complete. The ice-bath was removed and the reaction quenched with saturated aqueous ammonium chloride at ambient temperature. The mixture was partitioned between water and dichloromethane and the organic layer washed with brine and concentrated at reduced pressure. The residue was dissolved in THF and cooled to ice bath temperature. Water (0.5 mL) was added, followed by TBAF (1M in THF) drop-wise. The mixture was again warmed to ambient temperature and partitioned between dichloromethane and water. The organic phase was dried (MgSO4), filtered and concentrated. The residue (647 mg) was purified by silica gel chromatography on an Isco Companion (40 g column), eluting with 0-10% methanol in dichloromethane to give the title intermediate (204 mg). A further amount of impure compound (48 mg) was also isolated.

reactant | di-tert-butyl (2R)-2-{[4-(3,4-dichlorophenyl)piperazin-1-yl]carbonyl}piperazine-1,4-dicarboxylate | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C(=O)[C@@H]1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C25H36Cl2N4O5
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | TBDMSOTf | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | dichloromethane | ClCCl | CH2Cl2
product | tert-Butyl (2R)-2-{[4-(3,4-dichlorophenyl)piperazin-1-yl]carbonyl}piperazine-1-carboxylate | 204 mg | ClC=1C=C(C=CC1Cl)N1CCN(CC1)C(=O)[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C20H28Cl2N4O3
